US04409220
2-Amino-7-ethyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine monohydrochloride
This compound was prepared analogous to Example 17 from 7-acetyl-2-amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine by reduction with lithium aluminum hydride and subsequent precipitation of the monohydrochloride.

reactant | 7-acetyl-2-amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine | C(C)(=O)N1CCC2=C(CC1)N=CC(=N2)N | C10H14N4O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | monohydrochloride | Cl | ClH
product | 2-Amino-7-ethyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine monohydrochloride | Cl.NC=1C=NC2=C(CCN(CC2)CC)N1 | InChI=1S/C10H16N4.ClH/c1-2-14-5-3-8-9(4-6-14)13-10(11)7-12-8;/h7H,2-6H2,1H3,(H2,11,13);1H
